US08222245B2
8-[(Phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
A mixture of 8-hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (Preparation 26) (8.66 g, 48.3 mmol), benzyl bromide (6.32 ml, 53.2 mmol) and potassium carbonate (20.04 g, 145 mmol) in DMF (80 ml) was stirred and heated at 60° C. for 2 hours. The cooled reaction was diluted with EtOAc/water (300 ml of each) and the aqueous extracted with EtOAc (2×75 ml). Combined organics were washed with 3×100 ml of water, dried (magnesium sulphate), evaporated, triturated with ether and filtered off to give the title compound (8.39 g) as a white solid. MS (ES) C16H15NO3 requires 269; found 270 [M+H]+.

reactant | 8-hydroxy-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 48.3 mmol, 8.66 g | OC1=CC2=C(C(NCCO2)=O)C=C1 | C9H9NO3
reactant | benzyl bromide | 53.2 mmol, 6.32 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 145 mmol, 20.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | EtOAc water | CCOC(=O)C.O
product | 8-[(Phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 8.39 g | C1(=CC=CC=C1)COC1=CC2=C(C(NCCO2)=O)C=C1 | C16H15NO3
